US04021441
In the manner given in Example 1, a potassium iodide and 7-(ethylthio)-1-(chloromethyl)-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in tetrahydrofuran is treated with cyclopropylamine to give 7-(ethylthio)-1-[(cyclopropylamino)methyl]-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | potassium iodide | [I-].[K+]
reactant | 7-(ethylthio)-1-(chloromethyl)-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)SC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CCl)C1=CC(=CC=C1)Cl | C19H16Cl2N4S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-(ethylthio)-1-[(cyclopropylamino)methyl]-6-(m-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)SC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CNC1CC1)C1=CC(=CC=C1)Cl | C22H22ClN5S
